US08895761B2
To a solution of 4-bromo-2-ethylaniline (50 g, 0.25 mol) in dichloromethane (250 ml) is added triethylamine (63.24 g, 0.62 mol) and the mixture is stirred at room temperature for 30 minutes. The reaction mixture is cooled to 0° C. and acetyl chloride (39.25 g, 0.5 mol) is added dropwise. The reaction mixture is stirred at 25-30° C. for 60 minutes, then poured into water, and the two phases separated. The organic phase is washed with water, dried over anhydrous sodium sulfate, filtered and the filtrate is evaporated under reduced pressure to yield N-(4-bromo-2-ethylphenyl)acetamide (40 g).

reactant | 4-bromo-2-ethylaniline | 0.25 mol, 50 g | BrC1=CC(=C(N)C=C1)CC | C8H10BrN
reactant | triethylamine | 0.62 mol, 63.24 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.5 mol, 39.25 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-(4-bromo-2-ethylphenyl)acetamide | 40 g | BrC1=CC(=C(C=C1)NC(C)=O)CC | C10H12BrNO
